US07378409B2
Examples 11p and 11q, Step 8: To a solution of 1-((1S,2S,5R)-2-(dibenzylamino)-5-(isopropyl(methyl)amino)cyclohexyl)-3-methylbutan-2-one (168 mg, 0.39 mmoles) in 3 ml of methanol was added sodium borohydride (29.2 mg, 0.78 mmoles), the mixture was stirred for 2 hours at room temperature. At the end of the stirring was added saturated NH4Cl, and then the mixture was made basic with saturated NaHCO3. It was extracted with EtOAc, washed with brine, dried over Na2SO4, and evaporated to give 166 mg of 1-((1S,2S,5R)-2-(dibenzylamino)-5-(isopropyl(methyl)amino)cyclohexyl)-3-methylbutan-2-ol as a mixture of the two isomers (ratio ˜2:1).

reactant | 1-((1S,2S,5R)-2-(dibenzylamino)-5-(isopropyl(methyl)amino)cyclohexyl)-3-methylbutan-2-one | 0.39 mmoles, 168 mg | C(C1=CC=CC=C1)N([C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CC(C(C)C)=O)CC1=CC=CC=C1 | C29H42N2O
reactant | sodium borohydride | 0.78 mmoles, 29.2 mg | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 1-((1S,2S,5R)-2-(dibenzylamino)-5-(isopropyl(methyl)amino)cyclohexyl)-3-methylbutan-2-ol | 166 mg | C(C1=CC=CC=C1)N([C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CC(C(C)C)O)CC1=CC=CC=C1 | C29H44N2O
